US08980633B2
Transformation, Culture, and Treatment of Tobacco Plants with MeJA
Ten colonies of the transformed Agrobacteria containing a promoter construct of interest were picked from a fresh plate and inoculated into 10 ml YEB, containing 50 mg/l rifampicin, and 50 mg/l kanamycin, in a 50 ml flask. Cell cultures were incubated overnight at 28° C. with shaking. Approximately 1 ml of overnight culture was taken. Cultures were diluted with 50 ml YEB plus antibiotics so that the OD600 was approximately 0.3. Agrobacteria were grown at 28° C. with shaking until the OD600 was approximately 0.6. The cells were then pelleted by centrifugation. Supernatants were removed and Agrobacteria were resuspended in 40 ml fresh YEB by pipetting with a 1 ml tip. Wild type tobacco leaves were cut into small pieces under sterile conditions and put in a 50 ml beaker. Agrobacteria solution was poured onto the tobacco leaves and the mixture was swirled together and left for 5 min for the Agrobacteria to infect the leaves. Infected leaves were put on MS plates with filter paper (to limit Agrobacteria grow). The MS plates did not contain antibiotics. Plates were left for 2 days in the dark. After 2 days the tobacco pieces were transferred onto MS plates containing 1 mg/l 6 BA, 500 mg/l cefotaxin and 100 mg/l kanamycin. Samples were left in the light at 28° C. After 1 month small transgenic tobacco plants were visible. The plants were transferred to pots with ½ MS medium with 150 mg/l kanamycin. Several week old plants were transplanted into soil and grown under standard greenhouse conditions. Seeds from primary transformants were collected and germinated on ½ MS medium with 150 mg/l kanamycin and 500 mg/l cefotaxin. Transgenic seedlings were tested for promoter activity.

reactant | rifampicin | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=C2O)C(=C3O)/C=N/N5CCN(CC5)C)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C43H58N4O12
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
product | MeJA | CC/C=C\CC1C(CCC1=O)CC(=O)OC | C13H20O3
